US05883098
A mixture of (2R)-1-[3,5-bis(trifluoromethyl)-benzoyl]-2-(1H-indol-3-ylmethyl)piperazine (1.5 g), benzyl 2-bromoacetate (0.79 g), triethylamine (0.55 ml) and tetrahydrofuran (15 ml) was stirred overnight at room temperature. The resulting insoluble material was removed by filtration and the filtrate was concentrated under reduced pressure. The residue was purified by column chromatography on silica gel eluting with a mixture of dichloromethane and methanol (30:1) to give (2R)-4-(benzyloxycarbonylmethyl)-1-[3,5-bis(trifluoromethyl)-benzoyl]-2-(1H-indol-3-ylmethyl)piperazine (1.92 g).

reactant | (2R)-1-[3,5-bis(trifluoromethyl)-benzoyl]-2-(1H-indol-3-ylmethyl)piperazine | 1.5 g | FC(C=1C=C(C(=O)N2[C@@H](CNCC2)CC2=CNC3=CC=CC=C23)C=C(C1)C(F)(F)F)(F)F | C22H19F6N3O
reactant | benzyl 2-bromoacetate | 0.79 g | BrCC(=O)OCC1=CC=CC=C1 | C9H9BrO2
reactant | triethylamine | 0.55 ml | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
product | (2R)-4-(benzyloxycarbonylmethyl)-1-[3,5-bis(trifluoromethyl)-benzoyl]-2-(1H-indol-3-ylmethyl)piperazine | 1.92 g | C(C1=CC=CC=C1)OC(=O)CN1C[C@H](N(CC1)C(C1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)=O)CC1=CNC2=CC=CC=C12 | C31H27F6N3O3
